US06613942B1
3-Chloro-4-hydroxybenzoic Acid (4-(Isobutylaminomethyl)naphthylmethylene)hydrazide
The resin bound 3-chloro-4-hydroxybenzoic acid (4-hydroxymethylnaphthylmethylene)hydrazide (Resin—[Building block 1]—[Building block 2]) (50 mg, ˜0.05 mmoles) was swelled in CH2Cl2 (1 mL) for 15 min, then washed with CH2Cl2(2×0.5 mL). 0.4 mL CH2Cl2 and 0.4 mL diisopropylethylamine was subsequently added and the suspension was cooled to 0° C. Methanesulfonylchloride (0.1 mL) was dissolved in CH2Cl2 (0.3 mL) and added to the suspension. The mixture was allowed to react at 0° C. for 30 min, then at 25° C. for 1 hour. The resin was isolated by filtration and washed with CH2Cl2 (2×0.5 mL) and DMSO (0.5 mL). DMSO (0.5 mL) was added followed by 50 μL isobutylamine and 100 μL diisopropylethylamine. The mixture was shaken at 25° C. for 16 hours, filtered and washed successively with DMSO (2×0.5 mL), THF (3×0.5 mL), CH3OH (0.5 mL), CH2Cl2 (0.5 mL), CH3OH (0.5 mL), CH2Cl2 (4×0.5 mL). The compound was cleaved from the resin by shaking for 1 hour at 25° C. with a 50% solution of trifluoroacetic acid in CH2Cl2 (1 mL). The mixture was filtered and the resin was extracted with acetonitrile (1 mL). The combined extracts were concentrated in vacuo. The residue was redissolved in a mixture of CH3OH (0.5 mL) and acetonitrile (0.5 mL) and concentrated in vacuo to give the title compound

reactant | 3-chloro-4-hydroxybenzoic acid (4-hydroxymethylnaphthylmethylene)hydrazide | OCC1=CC=C(C2=CC=CC=C12)C=NNC(C1=CC(=C(C=C1)O)Cl)=O | C19H15ClN2O3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-4-hydroxybenzoic Acid (4-(Isobutylaminomethyl)naphthylmethylene)hydrazide | C(C(C)C)NCC1=CC=C(C2=CC=CC=C12)C=NNC(C1=CC(=C(C=C1)O)Cl)=O | C23H24ClN3O2
